US05051422
4-(3,5-Dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 4-(3,5-dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide with lithium aluminum hydride to obtain the title compound.

reactant | 4-(3,5-dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | COC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C20H25N3O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(3,5-Dimethoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | COC=1C=C(C=C(C1)OC)N1CC(N(CC1)CC1=CC=CC=C1)CN | C20H27N3O2
